US07846925B2
Step I: 3-Amino-4-hydroxy-benzoic acid methyl ester
To a 2000 ml three-necked flask containing 3-Nitro-4-hydroxy-benzoic acid methyl ester (43 g, 2188 mmol) in MeOH (860 ml; 20 vols) was added palladium on carbon in water (2 g in 10 ml of water). Ammonium formiate (68.76 g, 5 eq.) was added in a single portion under stirring. After 2 to 3 minutes a suspension was observed, and temperature raised from 20° C. to 30° C. Ice bath was used to cool reaction mixture to 20° C. and the reaction was stirred at 20° C. for 40 minutes until completion (no more yellow color). Reaction mixture was filtered on silica plug, rinsed with MeOH, and the filtrate was concentrated under vacuum to give a green oil which was taken up in ethyl acetate (400 ml). The organic phase was washed twice with water, dried over MgSO4, filtered and concentrated to give a cream solid m=31.35 g (86%).

reactant | 3-Nitro-4-hydroxy-benzoic acid methyl ester | 2188 mmol, 43 g | COC(C1=CC(=C(C=C1)O)[N+](=O)[O-])=O | C8H7NO5
reactant | Ammonium formiate | 68.76 g, 5 eq. | C(=O)[O-].[NH4+]
solvent | MeOH | 860 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | water | 10 ml, 2 g | O | H2O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 3-Amino-4-hydroxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)O)N)=O | C8H9NO3
